US05041670
20 parts toluene, 1.74 parts (0.01 mole) 2,4-toluenediisocyanate, 2.8 parts (0.02 mole) boron trifluoride etherate and 0.40 part (0.02 mole) distilled water were combined and reacted as described in Example 1. The neutralization and isolation procedures described in Example 2 were conducted. 1.17 parts (97% yield) 2,4-toluenediamine were recovered having a melting point of 96° C.-98° C.

reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 2,4-toluenediisocyanate | 0.01 mole | CC1=C(C=C(C=C1)N=C=O)N=C=O | C9H6N2O2
reactant | boron trifluoride etherate | 0.02 mole | B(F)(F)F.CCOCC
solvent | water | O | H2O
product | 2,4-toluenediamine | 97% yield | C=1(C(=CC(=CC1)N)N)C | C7H10N2
